US04182776
2-(1-Naphthyloxy)ethanol O-methanesulfonate
To a solution of 18.8 g of 2-(1-naphthyloxy)ethanol and 15.1 g of triethylamine in 425 ml of dichloromethane is added 12.6 g of methanesulfonyl chloride as described in Example 1 to give the product.

reactant | 2-(1-naphthyloxy)ethanol | 18.8 g | C1(=CC=CC2=CC=CC=C12)OCCO | C12H12O2
reactant | triethylamine | 15.1 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 12.6 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 425 ml | ClCCl | CH2Cl2
product | 2-(1-Naphthyloxy)ethanol O-methanesulfonate | CS(=O)(=O)OCCOC1=CC=CC2=CC=CC=C12 | C13H14O4S
